US04851519
A solution of 0.2 g of 2',5'-dideoxy-5-ethyl-5'-[2-(2-nitrophenyl)acetamido]uridine in 100 ml of ethanol was hydrogenated over 0.1 g of 10% palladium-on-carbon catalyst at room temperature and under atmospheric pressure until the uptake of hydrogen was complete. The mixture was filtered and the filtrate was evaporated to yield an oil which crystallized from ethanol to give 0.1 g of 5'-[2-(2-aminophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine in the form of a white solid of melting point 195°-196° C.

reactant | 2',5'-dideoxy-5-ethyl-5'-[2-(2-nitrophenyl)acetamido]uridine | 0.2 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CNC(CC3=C(C=CC=C3)[N+](=O)[O-])=O)O2)C1)=O)=O | C19H22N4O7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 5'-[2-(2-aminophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | 0.1 g | NC1=C(C=CC=C1)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C19H24N4O5
